datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](=[C:19][C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:19](=[C:18]([H:21])[H:22])[C:20]([H:23])([H:24])[H:25])[H:8],1.42256
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])[H:10],58.1158
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[S:5][C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[S:5][H:19])[H:9])([H:7])[H:8].[C:6]([H:16])([H:17])[H:18],21.3384
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([S:7][H:10])([H:8])[H:9]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:6]([S:7][H:10])([H:8])[H:9],94.2655
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18],-13.3888
[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:5])[H:4]>>[C:0](#[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])[H:4].[H:5],164.121584
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:13])[H:11])([H:9])[H:10].[O:2][O:3][H:12],63.1784
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([S:2][H:5])[H:13])([H:3])[H:4].[C:6]([c:7]1[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]1[H:20])([H:14])[H:15],-10.0416
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([S:13][H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:14])[H:7])([H:5])[H:6].[C:12]([S:13][H:17])([H:15])[H:16],95.8136
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:21]([C:20](=[C:19]([H:23])[H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])[H:9])([H:7])[H:8],56.4003
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13]>>[C:0]([C:1]([C:2]([C:3]([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:13],24.945008
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:15]([C:14]([H:17])([H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:7])[H:6],12.5938
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][H:14]>>[C:0]([C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][O:13][H:14],-5.4392
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],1.42256
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[S:6]=[C:7][S:8][H:9]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7](=[S:6])[S:8][H:9],83.68
[S:0]=[C:1]([S:2][H:4])[H:3].[S:5]=[C:6]([C:7]([S:8][H:11])[H:10])[H:9]>>[H:3][C:7]([C:6](=[S:5])[H:9])([S:8][H:11])[H:10].[S:0]=[C:1][S:2][H:4],198.447
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19],69.3289
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]([C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:12])[H:11],57.6555
